US07148218B2
d) Preparation of (2Z,4S,5S,6S,7Z,10S,11R,12R,13S,14S)-5,11-bis[[(1,1-dimethylethyl)dimethylsilyl]oxy]-13-hydroxy-4,6,8,10,12,14-hexamethyl-15-(phenylmethoxy)-2,7-pentadecadienoic acid methyl ester.
18-Crown-6 (349 mg, 1.32 mmol, 2 eq) is added to a solution of bis(2,2,2-trifluoroethyl) (methoxycarbonylmethyl)phosphonate (355 mg, 1.78 mmol, 2.7 eq) in toluene (7 mL) at 23° C. and stirred for 5 min. The mixture is cooled to −20° C. KHMDS (1.78 mmol, 2.7 eq, 0.5 M in toluene) is added dropwise and stirred for 30 min. The mixture is warmed to 0° C. and stirred for 30 min. Then the mixture is cooled to −20° C., a solution of crude (2R,3R,4S,5Z,8S,9R, 10R, 11 S,12S)-3,9-bis[[(1,1-dimethylethyl)dimethylsilyl]oxy]-11-hydroxy-2,4,6,8,10,12-hexamethyl-13-(phenylmethoxy)-5-tridecenal in toluene (3 mL) is added to the mixture and stirred for 5 min. The mixture is warmed to 0° C. and stirred for 4 h. Saturated NH4Cl (15 mL) is added, and the resultant mixture is washed with brine, dried and concentrated. The crude product is chromatographed (10% EtOAc in hexane) to give 266 mg (two-step: 52%) of the desired compound as a colorless oil.

reactant | 18-Crown-6 | 1.32 mmol, 349 mg, 2 eq | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | bis(2,2,2-trifluoroethyl) (methoxycarbonylmethyl)phosphonate | 1.78 mmol, 355 mg, 2.7 eq | COC(=O)CP(OCC(F)(F)F)(OCC(F)(F)F)=O | C7H9F6O5P
reactant | KHMDS | 1.78 mmol, 0.5 M, 2.7 eq | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 3,9-bis[[(1,1-dimethylethyl)dimethylsilyl]oxy]-11-hydroxy-2,4,6,8,10,12-hexamethyl-13-(phenylmethoxy)-5-tridecenal | CC(C)(C)[Si](OC(C(C=O)C)C(C=C(CC(C(C(C(C(COCC1=CC=CC=C1)C)O)C)O[Si](C)(C)C(C)(C)C)C)C)C)(C)C | C38H70O5Si2
reactant | NH4Cl | 15 mL | [NH4+].[Cl-]
solvent | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | (2Z,4S,5S,6S,7Z,10S,11R,12R,13S,14S)-5,11-bis[[(1,1-dimethylethyl)dimethylsilyl]oxy]-13-hydroxy-4,6,8,10,12,14-hexamethyl-15-(phenylmethoxy)-2,7-pentadecadienoic acid methyl ester | COC(\C=C/[C@@H]([C@@H]([C@H](\C=C(/C[C@@H]([C@H]([C@@H]([C@H]([C@H](COCC1=CC=CC=C1)C)O)C)O[Si](C)(C)C(C)(C)C)C)\C)C)O[Si](C)(C)C(C)(C)C)C)=O | C41H74O6Si2
